US09403801B2
Step 2) tert-butyl 5-((5-chloro-2-((1-methyl-1H-pyrazol-4-yl)amino)pyrimidin-4-yl)(methyl)amino)hexahydrocyclopenta[c]pyrrole-2(1H)-carboxylate
To a suspension of tert-butyl 5-((2,5-dichloropyrimidin-4-yl)(methyl)amino)hexahydrocyclopenta[c]pyrrole-2(1H)-carboxylate (249.1 mg, 0.64 mmol) and 1-methylpyrazol-4-amine hydrochloride (333.1 mg, 2.49 mmol) in n-BuOH (10 mL) was added DIPEA (452.0 mg, 3.46 mmol). The reaction mixture was stirred at 150° C. in a sealed tube for 28 h and concentrated in vacuo. The residue was purified by silica gel column chromatography (EtOAc/PE (v/v)=2/1) to give the title compound as brown oil (230.8 mg, 80.1%).

reactant | tert-butyl 5-((2,5-dichloropyrimidin-4-yl)(methyl)amino)hexahydrocyclopenta[c]pyrrole-2(1H)-carboxylate | 0.64 mmol, 249.1 mg | ClC1=NC=C(C(=N1)N(C1CC2C(CN(C2)C(=O)OC(C)(C)C)C1)C)Cl | C17H24Cl2N4O2
reactant | 1-methylpyrazol-4-amine hydrochloride | 2.49 mmol, 333.1 mg | Cl.CN1N=CC(=C1)N
reactant | DIPEA | 3.46 mmol, 452.0 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | n-BuOH | 10 mL | CCCCO | C4H10O
product | tert-butyl 5-((5-chloro-2-((1-methyl-1H-pyrazol-4-yl)amino)pyrimidin-4-yl)(methyl)amino)hexahydrocyclopenta[c]pyrrole-2(1H)-carboxylate | 230.8 mg, 80.1% | ClC=1C(=NC(=NC1)NC=1C=NN(C1)C)N(C1CC2C(CN(C2)C(=O)OC(C)(C)C)C1)C | C21H30ClN7O2
